US06162809
A1. 4-(3-Chloropropylthio)-3-methyl-2-[(2-pyridinylthio)methyl]pyridine dihydrochloride
2-Mercaptopyridine (10 mmol) and 2-chloromethyl-4-(3-chloropropylthio)-3-methylpyridine hydrochloride (10 mmol) are heated to boiling in isopropanol (25 ml) for 4-6 h. After cooling, the precipitated solid is filtered off, washed with isopropanol and dried in vacuo at 40° C. 3.6 g (91% of theory) of the title compound are obtained as a colorless solid; m.p. 112-114° C. (dec.).

reactant | 2-Mercaptopyridine | 10 mmol | SC1=NC=CC=C1 | C5H5NS
reactant | 2-chloromethyl-4-(3-chloropropylthio)-3-methylpyridine hydrochloride | 10 mmol | Cl.ClCC1=NC=CC(=C1C)SCCCCl
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 4-(3-Chloropropylthio)-3-methyl-2-[(2-pyridinylthio)methyl]pyridine dihydrochloride | Cl.Cl.ClCCCSC1=C(C(=NC=C1)CSC1=NC=CC=C1)C | InChI=1S/C15H17ClN2S2.2ClH/c1-12-13(11-20-15-5-2-3-8-18-15)17-9-6-14(12)19-10-4-7-16;;/h2-3,5-6,8-9H,4,7,10-11H2,1H3;2*1H
